Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Demerol / Vancomycin
 
Attending: ___.
 
Chief Complaint:
rectal prolapse
 
Major Surgical or Invasive Procedure:
transanal proctectomy 

 
History of Present Illness:
___ year old man with a two year history of rectal prolapse that
has progressed required hospitalization last ___.  Patient
presents today for surgical pre-operative preparation for a
transanal proctecomy.   Pt with long standing history of
constipation and prolaspe with each bowel movement.  Last bowel
movement day prior to admission. No PRBPR, pt able to reduce
prolapse.  No nausea, vomiting associated with symptoms.

 
Past Medical History:
# Crohn's disease - on pentasa, c-scope ___ without active dz  
# Rheumatoid arthritis: last dose of humira 8 days ago, last  
dose of MTX ?, on daily dexamethasone  
# candidal esophagitis in ___ and ___  
# COPD  
# interstitial lung disease  
# Gastritis  
# OA  
# sigmoid diverticulosis by c-scope in ___  
# h/o vertigo  
# Sjogren's  
# severe ___ peripheral neuropathy  
PSHx:  
# s/p bilateral knee and hip replacements  
# s/p CCY  
# s/p lumbar decompression laminectomy w/ L3/4 or ___ spinal  
fusion  
 
Social History:
___
Family History:
Sister w/ arthritis died of hip joint infection 
 
Physical Exam:
GEN: a and o x3, nad
V.S.S
CV: rrr no m/r/g
RESP: lscta
ABD: soft, nt, nd, +bs
Ext no c/c/e
 
Pertinent Results:
___ 07:15AM BLOOD WBC-16.1*# RBC-4.22* Hgb-13.6* Hct-41.3 
MCV-98 MCH-32.3* MCHC-33.0 RDW-14.2 Plt ___
___ 03:16PM BLOOD WBC-8.9 RBC-3.96* Hgb-13.2* Hct-39.0* 
MCV-98 MCH-33.3* MCHC-33.8 RDW-14.6 Plt ___
___ 07:15AM BLOOD Plt ___
___ 07:15AM BLOOD Glucose-125* UreaN-14 Creat-0.8 Na-140 
K-4.9 Cl-105 HCO3-24 AnGap-16
___ 07:15AM BLOOD Calcium-8.5 Phos-3.9 Mg-2.1
 
Brief Hospital Course:
Pt was admitted to general surgery pre-op for bowel prep. He was 
given magcitrate with good effect. He was than pre-op'd and 
consented and taken to the or. He than returned to the floor 
from the PACU. His foley was removed and he failed to void, 
another foley was placed and 2 doses of flomx were given. Foley 
was than removed again and he voided with out issues. 
With the return of bowel function and flatus his diet was 
advanced from sips to regular, tolerated well. 
All d/c paperwork was reviewed from and all questions answered. 
He will follow up with Dr. ___ in ___ weeks. 
 
Medications on Admission:
Humira q 2wks 
 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Acetaminophen-Codeine 300-30 mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for Pain for 2 weeks: Do not 
exceed 4 gm acetaminophen per day.
Disp:*45 Tablet(s)* Refills:*0*
3. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily) as needed for congestion.  
4. Polyethylene Glycol 3350 100 % Powder Sig: One (1)  PO QAM 
AND QPM () as needed for constipation.  
5. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
6. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
8. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Methotrexate Sodium 2.5 mg Tablet Sig: Five (5) Tablet PO 
1X/WEEK (WE).  
10. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation QID (4 times a day) as needed for shortness of 
breath or wheezing.  
11. Famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
full-thickness rectal prolapse 

 
Discharge Condition:
Stable. 
Tolerating regular diet
Pain well controlled with oral medications.

 
Discharge Instructions:
Please call your doctor or return to the ER for any of the 
following:
* You experience new chest pain, pressure, squeezing or 
tightness.
* New or worsening cough or wheezing.
* If you are vomiting and cannot keep in fluids or your 
medications.
* You are getting dehydrated due to continued vomiting, 
diarrhea or other reasons. Signs of dehydration include dry 
mouth, rapid heartbeat or feeling dizzy or faint when standing.
* You see blood or dark/black material when you vomit or have a 
bowel movement.
* Your pain is not improving within ___ hours or not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or is changing location or moving to your chest or 

back.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon.
*Avoid driving or operating heavy machinery while taking pain 
medications.
* You have shaking chills, or a fever greater than 101.5 (F) 
degrees or 38(C) degrees.
* Any serious change in your symptoms, or any new symptoms that 
concern you. 
* Please resume all regular home medications and take any new 
meds 
as ordered. 
* Continue to ambulate several times per day.
.
Incision Care:
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___